US06653334B1
Synthesis of 3-(2-Methoxyphenyl)propionamide
3-(2-methoxyphenyl)propionic acid (9.0 g, 49.9 mmol) was dissolved in acetonitrile (10 mL). Subsequently, pyridine (3.54 g, 44.9 mmol) and di-tert-butyl dicarbonate [Boc2O (16.3 g, 74.85 mmol)] were added thereto. The mixture was stirred for 10 minutes at room temperature, and then ammonium hydrogencarbonate (5.92 g, 74.9 mmol) were added. After completion of reaction, the reaction mixture was concentrated under reduced pressure. Thereafter, the resultant concentrate was added to water, and the resultant mixture was extracted with chloroform, followed by washing sequentially with 1M hydrochloric acid and saturated brine. The resultant mixture was subjected to drying over magnesium sulfate and concentration under reduced pressure. The resultant concentrate was used in Production Example 36 without purification.

reactant | 3-(2-methoxyphenyl)propionic acid | 49.9 mmol, 9.0 g | COC1=C(C=CC=C1)CCC(=O)O | C10H12O3
reactant | pyridine | 44.9 mmol, 3.54 g | N1=CC=CC=C1 | C5H5N
reactant | di-tert-butyl dicarbonate | 74.85 mmol, 16.3 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ammonium hydrogencarbonate | 74.9 mmol, 5.92 g | C(O)([O-])=O.[NH4+]
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-(2-Methoxyphenyl)propionamide | COC1=C(C=CC=C1)CCC(=O)N | C10H13NO2
